US06384048B1
1. (7R,8R,9R)-2,3-dimethyl-8-hydroxy-7-(2-methylthioethyloxy)-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
1 g of (7R,8R,9R)-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine, dissolved in 30 ml of dioxane and 5 ml of dimethyl-formamide, is admixed with 0.63 g of concentrated sulfuric acid and 1 g of 2-methylmercaptoethanol. The mixture is stirred at RT for 3 h, poured into ice-water (200 ml), adjusted to pH 8 using 2 N aqueous sodium hydroxide solution and extracted three times with methylene chloride. The solvent is stripped off under reduced pressure and the oily residue that remains is purified on silica gel (mobile phase: diethyl ether). This gives 80 mg of the title compound of m.p. 118-9° C. (diisopropyl ether).

reactant | (7R,8R,9R)-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 1 g | O[C@H]1[C@@H]([C@H](NC=2C=3N(C=CC12)C(=C(N3)C)C)C3=CC=CC=C3)O | C18H19N3O2
reactant | sulfuric acid | 0.63 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-methylmercaptoethanol | 1 g | CSCCO | C3H8OS
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dimethyl-formamide | 5 ml | CN(C=O)C | C3H7NO
product | (7R,8R,9R)-2,3-dimethyl-8-hydroxy-7-(2-methylthioethyloxy)-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | CC=1N=C2N(C=CC=3[C@H]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)OCCSC)C1C | C21H25N3O2S
